US08247429B2
5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one
To a solution of methyl 6-fluoro-5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate (407 mg, 1.38 mmol) in tetrahydrofuran (14 mL) was added a solution of sodium methoxide (28%, 533 mg, 2.76 mmol) in methanol, and the mixture was stirred at 60° C. for 1 hr. The reaction solution was concentrated to dryness, 10% aqueous sulfuric acid solution (14 mL) was added, and the mixture was heated under reflux for 3 hr. The reaction solution was diluted with ethyl acetate, neutralized with saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (269 mg, yield 95%).

reactant | methyl 6-fluoro-5-(3-methoxy-3-oxopropyl)-2-methyl-2H-indazole-4-carboxylate | 1.38 mmol, 407 mg | FC=1C(=C(C2=CN(N=C2C1)C)C(=O)OC)CCC(=O)OC | C14H15FN2O4
reactant | sodium methoxide | 2.76 mmol, 533 mg | C[O-].[Na+]
solvent | tetrahydrofuran | 14 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 5-fluoro-2-methyl-6,7-dihydrocyclopenta[e]indazol-8(2H)-one | 269 mg, yield 95% | FC=1C2=C(C3=CN(N=C3C1)C)C(CC2)=O | C11H9FN2O
